US07521457B2
b) 3-methoxy-4-nitro-benzamidine
99 ml (99 mmol) lithium-bis-trimethylsilylamide solution (1 mol/l in THF) are diluted with 640 ml THF, cooled to 10° C. and combined with 8.3 g (46.591 mmol) 3-methoxy-4-nitro-benzonitrile. The reaction mixture is stirred for 10 min at 20° C. The mixture is cooled to 0° C. and combined with 80 ml 3 N hydrochloric acid. The reaction mixture is evaporated down in vacuo and extracted with water and ethyl acetate. The aqueous phase is adjusted to pH 14 with 3 N sodium hydroxide solution. The product is then suction filtered.

reactant | lithium bis-trimethylsilylamide | 99 mmol, 1 mol/l, 99 ml | [Li].C[Si](C)(C)[N-][Si](C)(C)C
reactant | 3-methoxy-4-nitro-benzonitrile | 46.591 mmol, 8.3 g | COC=1C=C(C#N)C=CC1[N+](=O)[O-] | C8H6N2O3
reactant | hydrochloric acid | 3 N, 80 ml | Cl | ClH
solvent | THF | 640 ml | C1CCOC1 | C4H8O
product | 3-methoxy-4-nitro-benzamidine | COC=1C=C(C(=N)N)C=CC1[N+](=O)[O-] | C8H9N3O3
